US06441015B2
{5-[2,6-Dichloro-4-(1H-tetrazol-5-yl)-phenoxy]-2-hydroxy-phenyl}-piperidin-1-yl-methanone
{5-[2,6-Dichloro-4-(1H-tetrazol-5-yl)-phenoxy]-2-hydroxy-phenyl}-piperidin-1-yl-methanone was prepared from 3,5-dichloro-4-[4-hydroxy-3-(piperidine-1-carbonyl)-phenoxy]-benzonitrile according to a procedure analogous to that described in EXAMPLE 1, Step C. Sodium azide (2.0 equiv) and ammonium chloride (2.0 equiv) were used initially, and the reaction mixture was heated to reflux for 2 hours, after which additional sodium azide (2.0 equiv) was added, and the reaction was heated to reflux for 20 hours. After the reaction had been acidified and the crude product collected by filtration, then purified by preparative TLC (methanol:water:dichloromethane 20:3:77) to afford the title product of Example 3. MS (APCI+) Calc.: 433.0, Found: 434.1 (M+1).

reactant | 3,5-dichloro-4-[4-hydroxy-3-(piperidine-1-carbonyl)-phenoxy]-benzonitrile | ClC=1C=C(C#N)C=C(C1OC1=CC(=C(C=C1)O)C(=O)N1CCCCC1)Cl | C19H16Cl2N2O3
reactant | Sodium azide | 2.0 equiv | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 2.0 equiv | [Cl-].[NH4+]
reactant | sodium azide | 2.0 equiv | [N-]=[N+]=[N-].[Na+]
product | {5-[2,6-Dichloro-4-(1H-tetrazol-5-yl)-phenoxy]-2-hydroxy-phenyl}-piperidin-1-yl-methanone | ClC1=C(OC=2C=CC(=C(C2)C(=O)N2CCCCC2)O)C(=CC(=C1)C1=NN=NN1)Cl | C19H17Cl2N5O3
